US05187086
2-[2-(4-Aminophenyl-1-hydroxyethyl]-benzoic acid (Compound VII)
In another preparation, 2-bromobenzoic acid (957 mg, 4.8 mmol) was dissolved in 20 ml of tetrahydrofuran and cooled to -78° degrees C. (CO2 /acetone), n-butyl lithium (n-BuLi; 5.8 mM, 1.6M in hexanes, 9.2 mmol) was added nd stirred for one hour. Aldehyde Compound VI, (1.9 g, 3.2 mmol) dissolved in 10 ml tetrahydrofuran cooled to -78° degrees C. was added Via cannula, and thereafter stirred for four hours at -78° degrees C. The reaction mixture was poured into saturated ammonium chloride followed by extraction with (2×50 ml) ethyl acetate. The combined organic extracts were dried with sodium sulfate and purified by flash chromatography using neat methylene chloride yielding 860 mg, 62 percent of the theoretical amount. 1H NMR CDCl3) δ7.90-7.80 (m, 1H), 7.68-7.40 (m, 2H), 7.40-7.05 (m, 11H), 7.0 (d, J=8.6 Hz, 2H), 6.64 (d, J=8.6 Hz, 2H), 5.62 (t, J=7.1 Hz, 2H), 3.64 (br s, 2H), 3.4-2.8 (m, 2H).

reactant | 2-bromobenzoic acid | 4.8 mmol, 957 mg | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | CO2 acetone | C(=O)=O.CC(=O)C
reactant | n-butyl lithium | 9.2 mmol, 5.8 mM | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(4-Aminophenyl-1-hydroxyethyl]-benzoic acid | NC1=CC=C(C=C1)CC(O)C1=C(C(=O)O)C=CC=C1 | C15H15NO3
